US04649144
2,6-Dichloro-5-fluoronicotinonitrile (32.5 g) in ethanol (400 ml) was treated at room temperature with potassium salt of p-thiocresol, prepared from p-thiocresol (23.2 g) and potassium hydroxide (12.2 g), to give 2-chloro-6-(p-tolylthio)-5-fluoronicotinonitrile (42.4 g), m.p. 124°-125° C.

reactant | 2,6-Dichloro-5-fluoronicotinonitrile | 32.5 g | ClC1=C(C#N)C=C(C(=N1)Cl)F | C6HCl2FN2
reactant | potassium | [K] | K
reactant | p-thiocresol | CC1=CC=C(C=C1)S | C7H8S
reactant | p-thiocresol | 23.2 g | CC1=CC=C(C=C1)S | C7H8S
reactant | potassium hydroxide | 12.2 g | [OH-].[K+]
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2-chloro-6-(p-tolylthio)-5-fluoronicotinonitrile | 42.4 g | ClC1=C(C#N)C=C(C(=N1)SC1=CC=C(C=C1)C)F | C13H8ClFN2S
